US05604260
Step 5: 5-Nitro-6-bromo-1-indanone
To a suspension of 5-amino-6-bromo-1-indanone (30.0 g, 0.13 mol) in 20% aqueous fluoroboric acid (120 mL) at 0° C. was added dropwise 4M aqueous NaNO2 (50 mL, 0.20 mol) over a period of 30 min. The mixture was stirred for 30 min after completion of addition. The resulting foamy suspension was added portionwise to a vigorously stirred mixture of copper powder (40 g, 0.62 mol) and sodium nitrite (120 g, 1.74 mol) in water (240 mL) at room temperature over a period of 15 min. During the addition, excessive foaming was broken up by the addition of small amounts of diethyl ether. After further stirring for 30 min, the mixture was filtered through celite, washed with ethyl acetate (5'300 mL). The ethyl acetate layer was separated, washed with brine, dried over anhydrous MgSO4 and concentrated in vacuo. Chromatography over silica gel, eluting with CH2Cl2, yielded 17.5 g (51%) of the title compound as a pale yellow solid.

reactant | 5-amino-6-bromo-1-indanone | 0.13 mol, 30.0 g | NC=1C=C2CCC(C2=CC1Br)=O | C9H8BrNO
reactant | NaNO2 | 0.20 mol, 4M, 50 mL | N(=O)[O-].[Na+]
reactant | sodium nitrite | 1.74 mol, 120 g | N(=O)[O-].[Na+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | fluoroboric acid | 120 mL | F[B-](F)(F)F.[H+]
solvent | water | 240 mL | O | H2O
catalyst | copper | 0.62 mol, 40 g | [Cu] | Cu
product | 5-Nitro-6-bromo-1-indanone | 17.5 g, 51% | [N+](=O)([O-])C=1C=C2CCC(C2=CC1Br)=O | C9H6BrNO3
